US04555521
By the method of T. Naito, et al., Chem. Pharm. Bull. 16, 544 (1968), incorporated herein by reference, 50.0 g (0.18 mole) of ethyl alpha-bromo-(4-chlorophenyl)acetate, 110 ml of concentrated ammonium hydroxide solution, and ammonia gas in 125 ml of ethanol were reacted to produce 20.0 g of alpha-amino(4-chlorophenyl)acetamide hydrobromide (m.p. 273°-280° C. dec.).

reactant | ethyl alpha-bromo-(4-chlorophenyl)acetate | 0.18 mole, 50.0 g | BrC(C(=O)OCC)C1=CC=C(C=C1)Cl | C10H10BrClO2
reactant | ammonium hydroxide | 110 ml | [OH-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | alpha-amino(4-chlorophenyl)acetamide hydrobromide | 20.0 g | Br.NC(C(=O)N)C1=CC=C(C=C1)Cl | InChI=1S/C8H9ClN2O.BrH/c9-6-3-1-5(2-4-6)7(10)8(11)12;/h1-4,7H,10H2,(H2,11,12);1H
